US08866135B2
144 g of 1-naphthol, 190 g of p-toluenesulfonic acid monohydrate, 80.1 g of 1,3-cyclohexadiene and 4 L of toluene were placed in a flask. The resulting mixture was stirred under reflux for 24 hours. After cooling to room temperature, the reaction solution was washed with 600 mL of water. After drying an organic phase with magnesium sulfate, the solvent was distilled off under reduced pressure. Residues were purified by silica gel column chromatography, whereby 55.5 g (yield: 25%) of 7,8,9,10-tetrahydrobenzo[b]naphtho[2,1-d]furan was obtained.

reactant | 1-naphthol | 144 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | p-toluenesulfonic acid monohydrate | 190 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 1,3-cyclohexadiene | 80.1 g | C1=CC=CCC1 | C6H8
solvent | toluene | 4 L | C1(=CC=CC=C1)C | C7H8
product | 7,8,9,10-tetrahydrobenzo[b]naphtho[2,1-d]furan | 55.5 g, yield: 25% | C1=CC=CC=2C=CC=3C4=C(OC3C12)CCCC4 | C16H14O
